US03932465
To a mixture of 1.3 g of crude 3-(5-carboxy-furfuryl)-7β-phenylacetylamino-ceph-3-em-4-carboxylic acid 1-oxide and 1.7 g of tin-II-chloride in 20 ml of dimethylformamide are added dropwise under anhydrous conditions 6 ml of acetic acid chloride, the temperature being maintained at 0°-5°. The reaction mixture is subsequently stirred for 2 hours and worked up in a conventional manner for free acids (see Example 78). Chromatography of the crude product (silica gel, washed with hydrochloric acid; elution with a 4:1-mixture of methylene chloride and ethyl acetate) and subsequent crystallisation from methyl acetate yield the 3-(5-carboxy-furfuryl)-7β-phenylacetylamino-ceph-3-em-4-carboxylic acid, m.p. 183°-186°; thin-layer chromatogram (silica gel); Rf = 0.24 (system: n-butanol/ethanol/water 40:10:50) and Rf = 0.55 (system: chloroform/methanol 1:1); infrared absorption spectrum (in mineral oil): characteristic bands at: 2,96μ, 3,18μ, 5,65μ, 5,73μ and 5,90μ.

reactant | 3-(5-carboxy-furfuryl)-7β-phenylacetylamino-ceph-3-em-4-carboxylic acid 1-oxide | 1.3 g | C(=O)(O)C1=CC=C(CC=2CS([C@H]3N(C2C(=O)O)C([C@H]3NC(CC3=CC=CC=C3)=O)=O)=O)O1 | C21H18N2O8S
reactant | acetic acid chloride | 6 ml | C(C)(=O)Cl | C2H3ClO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-(5-carboxy-furfuryl)-7β-phenylacetylamino-ceph-3-em-4-carboxylic acid | C(=O)(O)C1=CC=C(CC=2CS[C@H]3N(C2C(=O)O)C([C@H]3NC(CC3=CC=CC=C3)=O)=O)O1 | C21H18N2O7S
